US03985888
A total of 14.1 grams (0.06 M) of 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione was added in small portions to 100 milliliters of nitric acid (d = 1.4) cooled to -5° to -10° C. This temperature was maintained for 15 minutes and then allowed to warm to 0° C. The reaction mixture was poured into an ice-water mixture and filtered. The precipitate was recrystallized from aqueous acetone and then from acetic acid and then from an acetone-isopropyl alcohol-ethyl acetate mixture. Recrystallization from dioxane followed by chromatrographic purification from a silica gel column (eluted by dioxane) gave 2,3-dihydro-6-nitrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione, melting point 273°-275° C.

reactant | 2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 0.06 M, 14.1 grams | N1C(C2(CCC1=O)CCC(C1=CC=CC=C12)=O)=O | C14H13NO3
reactant | nitric acid | 100 milliliters | [N+](=O)(O)[O-] | HNO3
product | 2,3-dihydro-6-nitrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | [N+](=O)([O-])C=1C=C2C(CCC3(C(NC(CC3)=O)=O)C2=CC1)=O | C14H12N2O5
